US05069819
Preparation of 3-(n-dodecylthio)-propanoic acid, methyl ester
Into a 1 liter 3 necked flask equipped with a mechanical stirrer, Claissen adaptor, thermometer and dropping funnel was charged 404 grams of 98% 1-dodecanethiol with stirring to 0.7 grams of Triton B (benzyltrimethyl ammonium hydroxide) and 180.6 grams of 99% methylacrylate. The addition was over a period of 1/2 hour and the temperature of the reaction mixture increased form 30° C. to 56° C. The reaction was stirred an extra hour wherein the temperature dropped from 56° C. to 35° C. The reaction mixture was stripped at 92° C. and 10 mm pressure. 580 grams of product was obtained. Product analysis by GC indicated a purity of 99%.

reactant | 1-dodecanethiol | 404 grams | C(CCCCCCCCCCC)S | C12H26S
reactant | benzyltrimethyl ammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | methylacrylate | 180.6 grams | COC(C=C)=O | C4H6O2
product | 3-(n-dodecylthio)-propanoic acid, methyl ester | 580 grams | C(CCCCCCCCCCC)SCCC(=O)OC | C16H32O2S
